US08212045B2
To a solution of 2-ethynylpyridin-3-yl acetate (5.0 g, 31 mmol) in ethanol (50 mL) was added PtO2 (0.50 g, 2.2 mmol). The mixture was degassed with nitrogen and placed under a double-layer balloon of hydrogen. The reaction was stirred at ambient temperature for 30 minutes, then filtered and concentrated in vacuo to give 2-ethylpyridin-3-yl acetate (5.1 g, 31 mmol) which was used in the next step without further purification.

reactant | 2-ethynylpyridin-3-yl acetate | 31 mmol, 5.0 g | C(C)(=O)OC=1C(=NC=CC1)C#C | C9H7NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | PtO2 | 2.2 mmol, 0.50 g | O=[Pt]=O
product | 2-ethylpyridin-3-yl acetate | 31 mmol, 5.1 g | C(C)(=O)OC=1C(=NC=CC1)CC | C9H11NO2
